US05521147
In a flask are placed 5.44 g (0.020 mole) of 3-bromo-2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran (prepared by the method of Example 2, Step A) and 7.45 g (0.020 mole) of tetraethylammonium thiosulfate (prepared by the method of B. Hahn et al., Liebigs Ann. Chem. 1981, 10-19) in 100 mL of absolute ethanol. This mixture is heated at reflux for 24 hours after which the solvent is removed under reduced pressure, leaving a residue. This residue is taken up in 60 mL of diethyl ether which is then filtered to remove inorganic salts. Slowly, 20 mL of a 2N aqueous sodium hydroxide solution is added to the rapidly stirred filtrate. This mixture is stirred for 30 minutes at room temperature after which the aqueous phase is separated from the organic phase. The latter is washed with water, dried over anhydrous sodium sulfate, and filtered. The solvent is evaporated under reduced pressure, leaving a residue which is dissolved in methylene chloride. This solution is passed through a column of silica gel, eluting with methylene chloride. Product-containing fractions are combined, and the solvent is evaporated under reduced pressure, yielding 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran-3-thione.

reactant | 3-bromo-2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran | 0.020 mole, 5.44 g | BrC1C(OC2=C1C=CC=C2[N+](=O)[O-])(C)C | C10H10BrNO3
reactant | tetraethylammonium thiosulfate | 0.020 mole, 7.45 g | S(=S)(=O)([O-])[O-].C(C)[N+](CC)(CC)CC.C(C)[N+](CC)(CC)CC
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran-3-thione | CC1(OC2=C(C1=S)C=CC=C2[N+](=O)[O-])C | C10H9NO3S
